US05232917
3α-Hydroxy-5α-pregnan-20-one (5.12 g) in pyridine (40 mL) was treated with toluene-p-sulphonyl chloride (5.6 g), and the reaction mixture was stirred at room temperature for 18.0 h. This solution was poured into dilute (5%) hydrochloric acid (200 mL) and washed three times with chloroform (150 mL portions). The combined organic phase was extracted with more 5% hydrochloric acid and water, dried over magnesium sulfate and evaporated to an oil which on standing crystallized and gave 3α-toluene-p-sulphonyloxy-5α-pregnan-20-one as a white solid.

reactant | 3α-Hydroxy-5α-pregnan-20-one | 5.12 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | toluene-p-sulphonyl chloride | 5.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 3α-toluene-p-sulphonyloxy-5α-pregnan-20-one | C1(=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C28H40O4S
